US06180622B2
The procedure of Example 23-a) is repeated to prepare 653.0 mg of a mercaptan compound as a yellow oil from 766.4 mg of (3S,5S)-3-acetylthio-1-allyloxycarbonyl-5-(5-methylimidazo[5,1-b]thiazol-2-yl)methylpyrrolidine described in Synthesis Example 11. Allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(5-methylimidazo[5,1-b]thiazol-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate (560.2 mg) is prepared as a colorless amorphous material from this mercaptan and 891.6 mg of allyl(1R,5R,6S)-2-(diphenylphosphono)oxy-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate.

reactant | (3S,5S)-3-acetylthio-1-allyloxycarbonyl-5-(5-methylimidazo[5,1-b]thiazol-2-yl)methylpyrrolidine | 766.4 mg | C(C)(=O)S[C@@H]1CN([C@@H](C1)CC1=CN2C(S1)=CN=C2C)C(=O)OCC=C | C17H21N3O3S2
reactant | allyl(1R,5R,6S)-2-(diphenylphosphono)oxy-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 891.6 mg | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)OC=1[C@@H]([C@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)O)=O)C | C25H26NO8P
product | Allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(5-methylimidazo[5,1-b]thiazol-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 560.2 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=CN2C(S1)=CN=C2C)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C28H34N4O6S2
